US08048909B2
N-Methyl-1-[1-(5-methyl-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methanamine fumarate
To a solution (5 mL) of tert-butyl {[1-(6-chloro-5-methyl-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate (237 mg) in tetrahydrofuran was added hydrazine (160 mg) with stirring at room temperature. After stirring at the same temperature for 3 hr, saturated aqueous sodium hydrogencarbonate solution was added and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (30 mL), manganese dioxide (75% chemically-treated product, 1.0 g) was added, the mixture was stirred at room temperature for 10 min. The reaction product was filtered through celite, and the celite was washed with ethyl acetate. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→1:1) to give N-Boc-compound (129 mg) of the title compound. The obtained N-Boc compound was dissolved in ethanol (2 mL), and a 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added. After stirring at room temperature for 2 hr, the solvent was evaporated under reduced pressure, saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue (93 mg) was dissolved in methanol (3 mL), and fumaric acid (29 mg) was added. The mixture was stood at room temperature for 30 min, and the precipitated crystals were collected by filtration and washed with methanol to give the title compound as a colorless solid (yield 91 mg, 40%).

reactant | tert-butyl {[1-(6-chloro-5-methyl-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate | 5 mL, 237 mg | ClC1=C(C=C(C=N1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C)C | C23H26ClN3O4S
reactant | hydrazine | 160 mg | NN | H4N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-Methyl-1-[1-(5-methyl-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methanamine fumarate | C(\C=C\C(=O)O)(=O)O.CNCC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C=1C=NC=C(C1)C | InChI=1S/C18H19N3O2S.C4H4O4/c1-14-8-17(12-20-10-14)24(22,23)21-13-15(11-19-2)9-18(21)16-6-4-3-5-7-16;5-3(6)1-2-4(7)8/h3-10,12-13,19H,11H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
